US08461328B2
To a solution of 5-nitro-1-(phenylsulfonyl)-N-(tetrahydro-2H-pyran-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-amine (11.7 g, 29.1 mmol) in ethyl acetate (400 mL) was added 10% palladium on carbon (3.0 g, 3.0 mmol). The mixture was stirred at ambient temperature under an atmosphere of hydrogen for 16 h. Filtration and concentration afforded 10.2 g (94.2%) of 1-(phenylsulfonyl)-N4-(tetrahydro-2H-pyran-3-yl)-1H-pyrrolo[2,3-b]pyridine-4,5-diamine. LCMS (Method E, ESI): RT=1.16 min, m+H=373.3; 1H NMR (400 MHz, CDCl3) δ 8.25-7.99 (m, 2H), 7.84 (s, 1H), 7.61-7.35 (m, 4H), 6.58 (d, J=4.2 Hz, 1H), 5.04 (t, J=12.8 Hz, 1H), 4.02-3.82 (m, 2H), 3.80-3.55 (m, 2H), 3.47 (dd, J=11.1, 6.1 Hz, 1H), 2.86 (s, 2H), 2.11-1.93 (m, 1H), 1.80 (dtd, J=14.6, 7.2, 3.7 Hz, 1H), 1.74-1.51 (m, 3H).

reactant | 5-nitro-1-(phenylsulfonyl)-N-(tetrahydro-2H-pyran-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-amine | 29.1 mmol, 11.7 g | [N+](=O)([O-])C1=C(C2=C(N=C1)N(C=C2)S(=O)(=O)C2=CC=CC=C2)NC2COCCC2 | C18H18N4O5S
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 3.0 mmol, 3.0 g | [Pd] | Pd
product | 1-(phenylsulfonyl)-N4-(tetrahydro-2H-pyran-3-yl)-1H-pyrrolo[2,3-b]pyridine-4,5-diamine | 10.2 g, 94.2% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2COCCC2)N | C18H20N4O3S
